US04414390
To a suspension of 5-(imidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril (2.5 g) in 300 ml of water was added 1.71 ml of concentrated hydrochloric acid. The mixture was heated and the solution was cooled to 50° C. and 10 ml of aqueous solution having dissolved therein 0.65 g of sodium nitrite was added dropwise to the solution at 50° C. with stirring. After completion of addition, the reaction was continued for 2 hours and the reaction mixture was allowed to stand overnight at room temperature. Crystals which precipitated were collected by filtration, and recrystallized from methanol to give 1.9 g of 5-(3-nitrosoimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril.

reactant | 5-(imidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril | 2.5 g | N=1C(=CN2C1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O | C17H15N3O2
reactant | hydrochloric acid | 1.71 ml | Cl | ClH
reactant | sodium nitrite | 0.65 g | N(=O)[O-].[Na+]
solvent | water | 300 ml | O | H2O
product | 5-(3-nitrosoimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril | 1.9 g | N(=O)C1=C(N=C2N1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O | C17H14N4O3
